US07825123B2
Step 5: 3-piperazin-1-yl-isoxazolo[4,5-c]pyridine dihydrochloride (Intermediate E)
4-Isoxazolo[4,5-c]pyridin-3-yl-piperazine-1-carboxylic acid tert-butyl ester (960 mg, 3.1 mmol) was dissolved in CH2Cl2 (2 ml) and 4 N HCl in dioxane (15.7 ml, 63 mmol) was added. The resulting mixture was stirred 16 h at r.t. After dilution with iPr2O the product was collected by filtration and washed with one portion of iPr2O before drying it under high vacuum at 50° C. to obtain 850 mg (97%) as a pink solid. m/z=205.2 ([M+H]+).

reactant | 4-Isoxazolo[4,5-c]pyridin-3-yl-piperazine-1-carboxylic acid tert-butyl ester | 3.1 mmol, 960 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NOC2=C1C=NC=C2 | C15H20N4O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 63 mmol, 15.7 ml | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 3-piperazin-1-yl-isoxazolo[4,5-c]pyridine dihydrochloride | Cl.Cl.N1(CCNCC1)C1=NOC2=C1C=NC=C2 | InChI=1S/C10H12N4O.2ClH/c1-2-12-7-8-9(1)15-13-10(8)14-5-3-11-4-6-14;;/h1-2,7,11H,3-6H2;2*1H
